US09422285B2
2-[(2,6-Difluorobenzyl)oxy]-4-methylpyridine
A mixture of 5.00 g (24.2 mmol, 1.0 eq.) of 2,6-difluorobenzyl bromide [CAS No: 85118-00-9] and 3.16 g (29.0 mmol, 1.2 eq.) of 2-hydroxy-4-methylpyridine [CAS No: 13466-41-6] was dissolved in 50 ml of THF. The solution was admixed with 7.99 g (29.0 mmol, 1.2 eq.) of silver carbonate and the mixture was heated to reflux with exclusion of light overnight. Subsequently, the reaction mixture was filtered through kieselguhr and eluted with ethyl acetate, and the filtrate was concentrated. The crude product was purified by means of Biotage Isolera (100 g silica gel cartridge, cyclohexane/ethyl acetate gradient, 0% to 10% ethyl acetate). 3.51 g of the title compound were obtained (61% of theory).

reactant | 2,6-difluorobenzyl bromide | 24.2 mmol, 5.00 g, 1.0 eq. | FC1=C(CBr)C(=CC=C1)F | C7H5BrF2
reactant | 2-hydroxy-4-methylpyridine | 29.0 mmol, 3.16 g, 1.2 eq. | OC1=NC=CC(=C1)C | C6H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | silver carbonate | 29.0 mmol, 7.99 g, 1.2 eq. | C([O-])([O-])=O.[Ag+2]
product | 2-[(2,6-Difluorobenzyl)oxy]-4-methylpyridine | 3.51 g | FC1=C(COC2=NC=CC(=C2)C)C(=CC=C1)F | C13H11F2NO
